US04962096
In chloroform, 4.33 g of 1-benzyloxy-3-hexadecyloxy-2-butanol, 26.34 g of acetic anhydride and 10.42 g of triethylamine were heated under reflux for 17 hours. The reaction mixture was treated in a conventional manner and purified by silica gel column chromatography to give 4.56 g of 2-acetyloxy-1-benzyloxy-3-hexadecyloxybutane.

reactant | 1-benzyloxy-3-hexadecyloxy-2-butanol | 4.33 g | C(C1=CC=CC=C1)OCC(C(C)OCCCCCCCCCCCCCCCC)O | C27H48O3
reactant | acetic anhydride | 26.34 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 10.42 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-acetyloxy-1-benzyloxy-3-hexadecyloxybutane | 4.56 g | C(C)(=O)OC(COCC1=CC=CC=C1)C(C)OCCCCCCCCCCCCCCCC | C29H50O4
